US08247341B2
Dimethylsilanediyl bis(trifluoromethanesulfonate):
An oven-dried 100 mL-RB flask is charged with dichlorodimethylsilane (6.45 g, 0.05 mol). Then trifluoromethanesulfonic acid (15 g, 0.10 mol) is added dropwise. The mixture is heated at 60° C. until no HCl evolves. The residue is distilled to yield 10.7 g (60%) of the product as a clear liquid. 1H NMR (500 MHz, CDCl3, in ppm) δ 0.88 (s, 6H).

reactant | dichlorodimethylsilane | 0.05 mol, 6.45 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | trifluoromethanesulfonic acid | 0.10 mol, 15 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | HCl | Cl | ClH
product | Dimethylsilanediyl bis(trifluoromethanesulfonate) | 10.7 g, 60% | FC(S(=O)(=O)O[Si](C)(C)OS(=O)(=O)C(F)(F)F)(F)F | C4H6F6O6S2Si
